US07750003B2
1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]piperidin-4-amine was prepared from (3S)-4-{2-Chloro-6-[1-methyl-1-(methylsulfonyl)ethyl]pyrimidin-4-yl}-3-methylmorpholine and tert-butyl N-(4-piperidyl)carbamate in an analogous two step procedure to 1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]piperidin-4-amine.

reactant | (3S)-4-{2-Chloro-6-[1-methyl-1-(methylsulfonyl)ethyl]pyrimidin-4-yl}-3-methylmorpholine | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(S(=O)(=O)C)C | C13H20ClN3O3S
reactant | tert-butyl N-(4-piperidyl)carbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]piperidin-4-amine | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)N1CCC(CC1)N | C16H27N5O3S
product | 1-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]piperidin-4-amine | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C)N1CCC(CC1)N | C18H31N5O3S
